US07122692B2
4 g of acetoxytri-n-butylsilane and 1.33 g of commercial methacrylic acid (ATOFINA Norsocryl® MAA) are mixed at room temperature, acetic acid is then distilled under reduced pressure (45° C./13 hPa) to afford tri-n-butylsilyl methacrylate.

reactant | acetoxytri-n-butylsilane | 4 g | C(C)(=O)O[Si](CCCC)(CCCC)CCCC | C14H30O2Si
reactant | methacrylic acid | 1.33 g | C(C(=C)C)(=O)O | C4H6O2
product | tri-n-butylsilyl methacrylate | C(C(=C)C)(=O)O[Si](CCCC)(CCCC)CCCC | C16H32O2Si
